US07230007B2
1-(Pyridin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid, 0.46 g (2.4 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride and 0.027 g (0,2 mmol) of 1-hydroxybenzotriazole were added to 0.59 g (10 mmol) of guanidine in 15 cm3 of tetrahydrofuran under an argon atmosphere. After stirring at a temperature in the region of 20° C. for 16 days, the reaction mixture was concentrated to dryness under reduced pressure (2.7 kPa) and the residue was triturated in 20 cm3 of methanol and then filtered. The filtrate was concentrated to dryness under reduced pressure (2.7 kPa) and the residue was purified by flash chromatography on silica gel, elution being carried out with a 100% of dichloromethane to dichloromethane/methanol/triethylamine (50/48/2 by volume) gradient over 90 min. After concentrating the fractions comprising the expected product to dryness under reduced pressure (2.7 kPa), the solid obtained was triturated in 20 cm3 of ethanol and filtered off, affording 0.028 g of N-[1-(pyridin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]guanidine hydrochloride in the form of a beige powder melting at 205–207° C. 1H N.M.R. spectrum (300 MHz, (CD3)2SO, 8 in ppm): from 7.30 to 7.45 (m, 2H), 8.08 (ddd, J=9, 8 and 2 Hz, 1H), 8.43 (dd, J=5 and 2 Hz, 1H), 8.59 (dd, J=5 and 2 Hz, 1H), 8.84 (dd, J=8 and 2 Hz, 1H), 8.89 (s, 1H), 8.95 (d, J=9 Hz, 1H).

reactant | 1-(Pyridin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | N1=C(C=CC=C1)N1C=C(C=2C1=NC=CC2)C(=O)O | C13H9N3O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.4 mmol, 0.46 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0,2 mmol, 0.027 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | guanidine | 10 mmol, 0.59 g | NC(=N)N | CH5N3
solvent | tetrahydrofuran | 15 cm3 | O1CCCC1 | C4H8O
product | N-[1-(pyridin-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl]guanidine hydrochloride | 0.028 g | Cl.N1=C(C=CC=C1)N1C=C(C=2C1=NC=CC2)C(=O)NC(=N)N | InChI=1S/C14H12N6O.ClH/c15-14(16)19-13(21)10-8-20(11-5-1-2-6-17-11)12-9(10)4-3-7-18-12;/h1-8H,(H4,15,16,19,21);1H
